Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization (___)

 
History of Present Illness:
___ male with history of HIV, hepatitis C (cured),
hypertension, former IV drug abuse, former alcohol abuse, and
smoking transferred from ___ for chest pain.  He
reports that symptoms began 2 days ago while resting on the 
couch
around 930-10 ___.  Symptoms were initially tolerable so he
ignored them and went to bed for the night.  The next morning he
continued to have intermittent chest pain throughout the day
while at work.  Around 6 ___, pain was becoming increasingly
severe and so he presented to outside hospital for evaluation. 
At outside hospital, initial troponin was 1.6 with EKG found to
be normal sinus rhythm.  Patient was diagnosed with NSTEMI,
placed on heparin drip and transferred here.
 
Past Medical History:
1. CARDIAC RISK FACTORS
 - hypertension
 - smoking 1 ppd
 - HIV

2. CARDIAC HISTORY  
No history of previous PCI, CABG, or pacemaker.

3. OTHER PAST MEDICAL HISTORY
 - Hepatitis C
 - former IV drug abuse
 - former alcohol abuse
 
Social History:
___
Family History:
No known history of coronary artery disease or sudden cardiac
death.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: afebrile, HR 91 BP 155/77 99% r.a.
Gen: AAOx3. Comfortable, appears stated age.
HEENT: Normocephalic, atraumatic. No carotid bruit.
Cardiac: Regular rate & rhythm. No murmurs.
Pulmonary: Clear to auscultation bilaterally. Breathing
comfortable.
Abd: Soft, non-tender, non-distended.
Ext: Non-edematous. Warm, well perfused.

DISCHARGE PHYSICAL EXAM:
========================
VS: 98.6, 131/80, 82, 18, 96% RA 
Gen: AAOx3. Comfortable, appears stated age.
HEENT: Normocephalic, atraumatic. No carotid bruit.
Cardiac: Regular rate & rhythm. No murmurs.
Pulmonary: Clear to auscultation bilaterally. Breathing
comfortable.
Abd: Soft, non-tender, non-distended.
Ext: Non-edematous. Warm, well perfused.
 
Pertinent Results:
ADMISSION LABS:
===============
___ 09:30AM   ___ PTT-40.5* ___
___ 08:36AM   CK(CPK)-843*
___ 08:36AM   cTropnT-0.65*
___ 08:36AM   CK-MB-127* MB INDX-15.1*
___ 08:36AM   ASA-NEG ACETMNPHN-NEG bnzodzpn-NEG 
barbitrt-NEG tricyclic-NEG
___ 03:20AM URINE  HOURS-RANDOM
___ 03:20AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS* 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 03:20AM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 03:20AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-5.5 
LEUK-NEG
___ 03:20AM URINE  RBC-<1 WBC-1 BACTERIA-FEW* YEAST-NONE 
EPI-0
___ 03:20AM URINE  HYALINE-5*
___ 03:20AM URINE  MUCOUS-RARE*
___ 02:48AM   ___ PTT-57.9* ___
___ 02:20AM   GLUCOSE-98 UREA N-17 CREAT-1.2 SODIUM-133 
POTASSIUM-4.6 CHLORIDE-97 TOTAL CO2-20* ANION GAP-16
___ 02:20AM   estGFR-Using this
___ 02:20AM   CK(CPK)-870*
___ 02:20AM   cTropnT-0.54*
___ 02:20AM   CK-MB-116* MB INDX-13.3*
___ 02:20AM   WBC-10.3* RBC-5.04 HGB-15.5 HCT-46.0 MCV-91 
MCH-30.8 MCHC-33.7 RDW-13.8 RDWSD-46.7*
___ 02:20AM   NEUTS-69.1 LYMPHS-15.3* MONOS-12.0 EOS-2.3 
BASOS-0.8 IM ___ AbsNeut-7.11* AbsLymp-1.57 AbsMono-1.23* 
AbsEos-0.24 AbsBaso-0.08
___ 02:20AM   PLT COUNT-182

DISCHARGE/PERTINENT LABS:
=========================
___ 05:52AM BLOOD WBC-9.5 RBC-4.61 Hgb-14.5 Hct-42.8 MCV-93 
MCH-31.5 MCHC-33.9 RDW-13.8 RDWSD-47.1* Plt ___
___ 05:52AM BLOOD ___ PTT-29.7 ___
___ 05:52AM BLOOD Glucose-82 UreaN-14 Creat-0.7 Na-138 
K-4.4 Cl-101 HCO3-21* AnGap-16
___ 05:52AM BLOOD ALT-15 AST-63* AlkPhos-60 TotBili-0.3
___ 05:52AM BLOOD CK-MB-24* cTropnT-1.12*
___ 05:52AM BLOOD Albumin-3.7 Calcium-8.6 Phos-2.8 Mg-2.0 
Cholest-114
___ 05:52AM BLOOD Triglyc-62 HDL-54 CHOL/HD-2.1 LDLcalc-48

MICROBIOLOGY:
=============
URINE CULTURE (Final ___:    < 10,000 CFU/mL. 

IMAGING/PROCEDURES:
===================
CARDIAC CATH:  
1. Moderate three vessel CAD in this right dominant coronary 
system with culprit lesion in the mid LCx (70%)
2. Successful PCI of the mid LCx with a 2.75 BMS, posted with a
2.75 NC balloon up to 20 ATM

ECHO:
Left ventricular wall thicknesses are normal. The left 
ventricular cavity size is normal. Overall left ventricular 
systolic function is normal (LVEF = 65%). However, the 
midventricular and apical segments of the lateral wall are 
mildly hypokinetic. Tissue Doppler imaging suggests a normal 
left ventricular filling pressure (PCWP<12mmHg). Right 
ventricular chamber size and free wall motion are normal. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The number of aortic valve leaflets cannot be 
determined. The aortic valve leaflets are mildly thickened (?#). 
There is no aortic valve stenosis. The mitral valve appears 
structurally normal with trivial mitral regurgitation. The 
pulmonary artery systolic pressure could not be determined. 
There is no pericardial effusion.  
 
Brief Hospital Course:
___ with history notable for HIV, HepC, HTN, former alcohol/IV 
drug abuse transferred from OSH with NSTEMI. Proceeded directly 
to cath with right radial access, 70% occlusion of circumflex 
(culprit lesion), 30% LAD, 40-50% RCA. Intervention with bare 
metal stent to circumflex. Hospital course uneventful otherwise. 
TTE prior to discharge showed overall left ventricular systolic 
function is normal (LVEF = 65%) with mild hypokinesis of the 
midventricular and apical segments of the lateral wall. He was 
started on aspirin, clopidogrel, metoprolol succinate 100 mg 
daily, and atorvastatin 80 mg daily.

#NSTEMI s/p PCI: Initially presented with chest pain at rest. 
Risk factors included long history of smoking, HIV, and 
hypertension. At outside hospital, initial troponin was 1.6 with 
EKG found to be normal sinus rhythm.  Patient was diagnosed with 
NSTEMI, placed on heparin drip and transferred here. In the ED 
initial vitals were: 98.4 68 128/80 18 96%. Labs notable for 
troponin peak of 1.12. EKG with normal sinus rhythm, leftward 
axis, no ST elevations or depressions. Patient received aspirin 
81 mg, atorvastatin 80 mg, nitro 0.4 SL, and started on heparin 
gtt 850/hr. He was admitted directly to cath lab and prioritized 
due to ongoing chest pain in waiting area. Successfully 
underwent PCI with BMS to LCx (70% stenosis) and loaded with 
Plavix & aspirin prior to floor. Vitals remained stable with 
complete resolution of symptoms. Monitored overnight with no 
complications following cath. Started multiple new medications 
for CAD/PCI including aspirin, Plavix, atorvastatin (per 
pharmacy, best option despite HIV meds), and metoprolol 
tartrate. Next morning he remained stable and asymptomatic and 
so was able to be discharged home with plan for cardiologist 
follow up.

#Hypertension: Remained stable throughout admission. Continued 
home lisinopril.

#HIV: Patient reported that he had not been able to take regular 
HIV medications for past ___ days as they were not available at 
his regular pharmacy. Resumed his HIV regimen with therapeutic 
equivalent of Triumeq (which was not on hospital formulary) and 
advised him to ensure he obtains his medications once discharged 
home.

TRANSITIONAL ISSUES:
====================
# Patient requires follow-up with Dr. ___ 3 weeks 
of discharge.
# The patient was started on Aspirin/Clopidogrel and should be 
continued on this combination for at least 1 month and should 
not be stopped without prior discussion and approval from 
cardiologist.
# The patient was started on Metoprolol 100mg XL for 
cardioprotective/mortality benefits. Please uptitrate to a HR of 
<60.
# The patient was also started on Atorvastatin 80mg PO daily.

#Proxy name: ___  Phone: ___
#CODE STATUS: full (confirmed)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Triumeq (abacavir-dolutegravir-lamivud) 600-50-300 mg oral 
DAILY 
2. Lisinopril 10 mg PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Aspir-81] 81 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily at night Disp 
#*30 Tablet Refills:*0 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
4.  Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
5.  Lisinopril 10 mg PO DAILY 
RX *lisinopril 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
6.  Triumeq (abacavir-dolutegravir-lamivud) 600-50-300 mg oral 
DAILY 
RX *abacavir-dolutegravir-lamivud [Triumeq] 600 mg-50 mg-300 mg 
1 tablet(s) by mouth daily Disp #*30 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
NSTEMI

SECONDARY DIAGNOSES:
HIV
HEPATITIS C
HYPERTENSION
SMOKING

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you. You were admitted to the 
___ because you had chest pain 
that was concerning for a heart attack. We did EKGs and lab 
tests that showed that your heart was not getting enough blood 
because of a narrowing of one of your arteries. 

We did a cardiac catheterization that confirmed the severe 
narrowing of one of your arteries so we placed a stent to open 
up this artery. You did very well after the procedure and your 
chest pain resolved.

You should continue to take all your medications as prescribed. 
You should not stop any medications without talking to your 
cardiologist. In particular, you should not stop or miss any 
doses of your clopidogrel (Plavix) for the first month after 
your procedure. 

Please keep all the appointments scheduled for you below.

Wishing you a speedy recovery.

Your ___ Care Team
 
Followup Instructions:
___